US05446161
A solution of 1.75 g of N-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl] amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester in 100 ml ofethanol was hydrogenated over 10% palladium-on-carbon for 64 hours. The catalyst was removed by filtration and the filtrate was evaporated. The residual gum was partitioned between ethyl acetate and 2M hydrochloric acid. The aqueous phase was made basic with dilute sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate extract was evaporated to give 1.14 g of N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester as a white, solid foam; MS: m/e 449 [M+H]+.

reactant | N-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl] amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 1.75 g | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O)O)=O | C31H42N4O7
catalyst | palladium-on-carbon | [Pd] | Pd
product | N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 1.14 g | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](N)CC(N)=O)=O)O)=O | C23H36N4O5
